US08859591B2
Step E: 4-(1-(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzoic acid
A mixture of ethyl 4-(1-(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzoate (90 mg, 0.2 mmol), lithium hydroxide monohydrate (24 mg, 1.0 mmol), methanol (2 ml), THF (3 ml), and water (1 ml) was stirred at +450 for 18 hours. The mixture was concentrated, diluted with 8 ml of water and 2 ml of 1 M potassium hydrogen sulfate. The mixture was extracted with ethyl acetate-heptane (1:1), extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated to obtain the target product as a white solid (84 mg, 99%). MS (M+1): 419.2.

reactant | ethyl 4-(1-(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzoate | 0.2 mmol, 90 mg | CC1=C(OC(CCC)C2=CC=C(C(=O)OCC)C=C2)C=CC(=C1)N1N=CC(=C1)C(F)(F)F | C24H25F3N2O3
reactant | lithium hydroxide monohydrate | 1.0 mmol, 24 mg | O.[OH-].[Li+]
reactant | methanol | 2 ml | CO | CH4O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 4-(1-(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenoxy)butyl)benzoic acid | 84 mg, 99% | CC1=C(OC(CCC)C2=CC=C(C(=O)O)C=C2)C=CC(=C1)N1N=CC(=C1)C(F)(F)F | C22H21F3N2O3
